US07622583B2
To a solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (2.92 g, 6.18 mmol) in THF (12 mL) under nitrogen atmosphere at −20° C. was added isopropylmagnesium chloride (2 M solution in THF, 6.5 mL, 13.0 mmol) via dropwise addition. The mixture was then stirred for 1 hour at 0° C. followed by the addition of a solution of 8-formyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester (273.5 mg, 1.54 mmol) in THF (2 mL) at −20 ° C. The mixture was stirred at room temperature overnight, quenched with saturated aqueous NH4Cl solution (5 mL), and extracted with EtOAc (2×200 mL). The combined organic extracts were washed with saturated aqueous NH4Cl solution (40 mL) and brine (40 mL), dried (Na2SO4), and concentrated under reduced pressure. The obtained residue was purified by flash column chromatography on silica gel (10% EtOAc-hexanes to 90% EtOAc-hexanes) to obtain 8-({5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridin-2-yl}-hydroxy-methyl) -2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester (590.2 mg) as yellow syrup. MS m/z: 678.0 (M+H)+.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 6.18 mmol, 2.92 g | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesium chloride | 13.0 mmol, 2 M, 6.5 mL | C(C)(C)[Mg]Cl
reactant | 8-formyl-2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester | 1.54 mmol, 273.5 mg | C(C)(C)(C)OC(=O)N1CCOC2=C1C=CC=C2C=O | C14H17NO4
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 8-({5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridin-2-yl}-hydroxy-methyl) -2,3-dihydro-benzo[1,4]oxazine-4-carboxylic acid tert-butyl ester | 590.2 mg | C(C)(C)(C)OC(=O)N1CCOC2=C1C=CC=C2C(O)C2=NC=C(C=C2N(COC)S(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)Cl | C28H28Cl2F3N3O7S
